US08119633B2
Methyl 2-(3,4-dichlorophenylsulfonamido)benzoate
Methyl 2-aminobenzoate (10 g, 66.2 mmol) was dissolved in DCM (100 ml), and pyridine (8.1 ml, 99.2 mmol, 1.5 eq.) was added thereto. A solution of 3,4-dichlorobenzenesulfonyl chloride (24.4 g, 99.2 mmol, 1.5 eq.) in DCM (150 ml) was then added dropwise at 0° C., and the reaction mixture was stirred overnight at room temperature. TLC monitoring (silica gel, DCM) showed complete conversion. When the reaction was complete, the reaction solution was diluted with DCM (250 ml) and washed with 0.5 M KHSO4 (500 ml), saturated NaHCO3 (500 ml) and saturated NaCl solution (500 ml). The organic phase was dried over sodium sulfate and concentrated in vacuo. For purification, filtration over a thin layer of silica gel was carried out (gradient: heptane/DCM (3:1) to DCM).

reactant | Methyl 2-aminobenzoate | 66.2 mmol, 10 g | NC1=C(C(=O)OC)C=CC=C1 | C8H9NO2
reactant | pyridine | 99.2 mmol, 8.1 ml, 1.5 eq. | N1=CC=CC=C1 | C5H5N
reactant | 3,4-dichlorobenzenesulfonyl chloride | 99.2 mmol, 24.4 g, 1.5 eq. | ClC=1C=C(C=CC1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 150 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 250 ml | C(Cl)Cl | CH2Cl2
product | Methyl 2-(3,4-dichlorophenylsulfonamido)benzoate | ClC=1C=C(C=CC1Cl)S(=O)(=O)NC1=C(C(=O)OC)C=CC=C1 | C14H11Cl2NO4S
